US07842688B2
a) tert-Butyl 3-{2-[2-(2-acetylaminoethyl)phenoxy]ethoxy}-4-{4-[4-(2-methoxyphenoxy)butoxy]phenyl}piperidine-1-carboxylate
Analogously to Method G, 0.090 g of tert-butyl 4-{4-[4-(2-methoxyphenoxy)butoxy]phenyl}-3-[2-(toluene-4-sulphonyloxy)ethoxy]piperidine-1-carboxylate and 0.048 g of N-[2-(2-hydroxyphenyl)ethyl]acetamide are reacted. The title compound is obtained as a yellow oil. Rf=0.48 (200:20:1 dichloromethane-methanol-25% conc. ammonia); Rt=5.57.

reactant | tert-butyl 4-{4-[4-(2-methoxyphenoxy)butoxy]phenyl}-3-[2-(toluene-4-sulphonyloxy)ethoxy]piperidine-1-carboxylate | 0.090 g | COC1=C(OCCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OC(C)(C)C)OCCOS(=O)(=O)C2=CC=C(C=C2)C)C=CC=C1 | C36H47NO9S
reactant | N-[2-(2-hydroxyphenyl)ethyl]acetamide | 0.048 g | OC1=C(C=CC=C1)CCNC(C)=O | C10H13NO2
product | tert-Butyl 3-{2-[2-(2-acetylaminoethyl)phenoxy]ethoxy}-4-{4-[4-(2-methoxyphenoxy)butoxy]phenyl}piperidine-1-carboxylate | C(C)(=O)NCCC1=C(OCCOC2CN(CCC2C2=CC=C(C=C2)OCCCCOC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C)C=CC=C1 | C39H52N2O8
